US08017637B2
55.4) N-(4-aminobutyl)-N-methylbutane-1,4-diamine
144 mg (0.33 mmol) of 2.2′-[(methylimino)dibutane-4,1-diyl]bis(1H-isoindole-1.3(2H)-dione) is solubilized in 2 ml of ethanol and 65 μl (0.73 mmol; 2.2 equivalents) of 35% hydrazine hydrate are added to the reaction mixture which is maintained under stirring at 150° C. under microwaves for 30 minutes. The solvents are evaporated off under reduced pressure and the excess hydrazine hydrate is eliminated by co-evaporation with 4 times 15 ml of ethanol. 100 ml of ethanol is added to the reaction mixture which is acidified to pH 1 with a 1N solution of hydrochloric acid in ethyl ether. The reaction medium is concentrated under reduced pressure, then taken up in 50 ml of ethanol and the white precipitate formed is filtered, washed with 3 times 20 ml of water and eliminated. The filtrate is basified to pH 12 with a 2M solution of soda, then concentrated under reduced pressure and used in the following stage without other purification.

reactant | 2.2′-[(methylimino)dibutane-4,1-diyl]bis(1H-isoindole-1.3(2H)-dione) | 0.33 mmol, 144 mg | CN(CCCCN1C(C2=CC=CC=C2C1=O)=O)CCCCN1C(C2=CC=CC=C2C1=O)=O | C25H27N3O4
reactant | hydrazine hydrate | 0.73 mmol, 65 μl, 2.2 equivalents | O.NN
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | N-(4-aminobutyl)-N-methylbutane-1,4-diamine | NCCCCN(CCCCN)C | C9H23N3
